US07528147B2
0.34 g of potassium carbonate and 0.243 ml of methyl acrylate are added, dropwise, to a solution of 1 g of 2-(5,6-dimethoxy-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine in 20 ml of anhydrous dimethylformamide, under an inert argon atmosphere at a temperature in the region of 20° C. The reaction medium is agitated at the same temperature for 16 hours. 20 ml of water and 20 ml of ethyl acetate are added. After separation by settling out, the organic phase is dried over sodium sulfate, filtered, and then concentrated under reduced pressure. After purification by flash chromatography (silica, dichloromethane as eluent, argon), the fractions containing the product are concentrated under reduced pressure. 1 g of methyl 3-{5,6-dimethoxy-3-[1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]indol-1-yl}propionate is thus obtained, the characteristics of which are as follows:

reactant | potassium carbonate | 0.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl acrylate | 0.243 ml | C(C=C)(=O)OC | C4H6O2
reactant | 2-(5,6-dimethoxy-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 1 g | COC=1C=C2C(=CNC2=CC1OC)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C24H21N3O4S
reactant | water | 20 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | methyl 3-{5,6-dimethoxy-3-[1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]indol-1-yl}propionate | 1 g | COC=1C=C2C(=CN(C2=CC1OC)CCC(=O)OC)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C28H27N3O6S
